US03974176
1.0 g of 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile, 10 ml of ethanol and 1.4 g of sodium hydroxide are heated at boiling point for 4 hours until the evolution of ammonia is terminated. The alcohol is distilled in vacuo, treated with ether, purified with active charcoal and the aqueous phase is acidified with hydrochloric acid to pH 3. With a yield of 95 % 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid is obtained; F 179.5°-181°.

reactant | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile | 1.0 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC#N | C17H11Cl2N3
reactant | sodium hydroxide | 1.4 g | [OH-].[Na+]
reactant | ammonia | N | H3N
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetic acid | yield of 95 % | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(=O)O | C17H12Cl2N2O2
